US07960562B2
Iron powder (0.78 g) and ammonium chloride (0.15 g) were added in that order to an ethanol/water (4/1) solution (40 mL) of benzyl 2-amino-3-nitrobenzoate (0.38 g), and this was heated under reflux for 20 minutes with vigorous stirring. The insoluble matter was separated by filtration while hot, and the filtrate was evaporated under reduced pressure to about ⅕, and then aqueous sodium hydrogencarbonate solution was added, followed by extraction with ethyl acetate. The organic layer was washed with water, dried, and evaporated under reduced pressure to obtain benzyl 2,3-diaminobenzoate (0.33 g).

reactant | ammonium chloride | 0.15 g | [Cl-].[NH4+]
reactant | benzyl 2-amino-3-nitrobenzoate | 40 mL, 0.38 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1[N+](=O)[O-] | C14H12N2O4
catalyst | Iron | 0.78 g | [Fe] | Fe
solvent | ethanol water | C(C)O.O
product | benzyl 2,3-diaminobenzoate | 0.33 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1N | C14H14N2O2
